US08440710B2
Step 1: 4-((S)-2,2,2-Trifluoro-1-methyl-ethoxy)-phenylamine
This material was made in analogy to example 142, step 1 from (S)-1,1,1-trifluoro-2-propanol [CAS 17628-73-8] and 1-fluoro-4-nitro-benzene [CAS 350-46-9]. MS (m/e): 206.1 (MH+).

reactant | (S)-1,1,1-trifluoro-2-propanol | FC([C@H](C)O)(F)F | C3H5F3O
reactant | 1-fluoro-4-nitro-benzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 4-((S)-2,2,2-Trifluoro-1-methyl-ethoxy)-phenylamine | FC([C@@H](OC1=CC=C(C=C1)N)C)(F)F | C9H10F3NO
